US04252984
12.43 ml of a 5.6 N mixture of sodium methylate and methyl alcohol (1 equivalent) are added to 13.9 g of p-benzoxyphenol in 60 ml of ethanol. Thereafter, 12.4 g of cyclopropylpropyl mesylate in 40 ml of ethanol are introduced, all at once, and the mixture is heated to the reflux temperature of this solvent for 3 hours. The ethanol is driven off by distillation, the residue is taken up in chloroform and the solution is washed with water, with N sodium hydroxide solution and then with water. From the chloroform (solution) are obtained 15.4 g of 4-cyclopropyl-propoxy-1-benzoxy-benzene (yield: 78.5%), M.p.=60° C. (MeOH).

reactant | sodium methylate | C[O-].[Na+]
reactant | p-benzoxyphenol | 13.9 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | cyclopropylpropyl mesylate | 12.4 g | S(C)(=O)(=O)OCCCC1CC1 | C7H14O3S
reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | ethanol | 40 ml | C(C)O | C2H6O
solvent | MeOH | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methyl alcohol | 1 equivalent | CO | CH4O
product | 4-cyclopropyl-propoxy-1-benzoxy-benzene | 15.4 g, yield: 78.5% | C1(CC1)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OCCC | C19H22O2
